US09145380B2
2-[1-(4-Chlorophenyl)propan-2-ylsulfonylamino]-4-fluoro-benzenesulfonamide
2-[[(E)-1-(4-Chlorophenyl)prop-1-en-2-yl]sulfonylamino]-4-fluoro-benzenesulfonamide (60 mg, 0.15 mmol) was dissolved in ethyl acetate (3 mL) and mixture was subjected to reduction using the H-cube instrument. The reaction mixture was eluted through the Pd/C (10%) cartridge using full hydrogen (1 atm) at 1 ml/min. The mixture was subjected to the H-cube once again using the same conditions. The crude product was purified by preparative HPLC (XTerra MS C8 column, acetonitrile/ammonium acetate buffer) to give the title compound (25 mg, 38%).

reactant | 2-[[(E)-1-(4-Chlorophenyl)prop-1-en-2-yl]sulfonylamino]-4-fluoro-benzenesulfonamide | 0.15 mmol, 60 mg | ClC1=CC=C(C=C1)\C=C(/C)\S(=O)(=O)NC1=C(C=CC(=C1)F)S(=O)(=O)N | C15H14ClFN2O4S2
solvent | ethyl acetate | 3 mL | C(C)(=O)OCC | C4H8O2
product | 2-[1-(4-Chlorophenyl)propan-2-ylsulfonylamino]-4-fluoro-benzenesulfonamide | 25 mg, 38% | ClC1=CC=C(C=C1)CC(C)S(=O)(=O)NC1=C(C=CC(=C1)F)S(=O)(=O)N | C15H16ClFN2O4S2
